US05686442
1.5N butyllithium (19.3 ml, 29.0 mmole) was added under the argon atmosphere to a solution of diisopropylamine (4.3 ml, 30.6 mmole) in tetrahydrofuran (50 ml) at -78° C., and the mixture was stirred for 1 hour. Next, ethyl propiolate (2.4 ml, 23.7 mmole) and a solution of 4-methoxymethoxy-2-nitrobenzaldehyde (3.6 g, 17.0 mmole) in tetrahydrofuran (35 ml) were added in this sequence, and the reaction mixture was stirred at -78° C. for further 2 hours. After a solution of acetic acid (5.0 ml, 87.5 mmole) in tetrahydrofuran (20 ml) and water were sequentially added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with dilute hydrochloric acid, water, a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous saline in this sequence. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure to give ethyl 4-hydroxy-4(4-methoxymethoxy-2-nitrophenyl)-2-butynoate as an oil (5.53 g).

reactant | butyllithium | 29.0 mmole, 1.5N, 19.3 ml | C(CCC)[Li]
reactant | diisopropylamine | 30.6 mmole, 4.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl propiolate | 23.7 mmole, 2.4 ml | C(C#C)(=O)OCC | C5H6O2
reactant | 4-methoxymethoxy-2-nitrobenzaldehyde | 17.0 mmole, 3.6 g | COCOC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C9H9NO5
reactant | acetic acid | 87.5 mmole, 5.0 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 4-hydroxy-4(4-methoxymethoxy-2-nitrophenyl)-2-butynoate | 5.53 g | OC(C#CC(=O)OCC)C1=C(C=C(C=C1)OCOC)[N+](=O)[O-] | C14H15NO7
